US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-(2-furoyl)-2-(p-anisidino)propionic acid and methyl 4-(p-anisidino)butyrate and suitable processing produces methyl N-[N-(2-furoyl)-2-(p-anisidino)propionyl]-4-(p-anisidino)butyrate (oil), saponification of which and processing of the reaction product yields N-[N-(2-furoyl)-2-(p-anisidino)propionyl]-4-(p-anisidino)butyric acid (M.P. 204° to 206°).

reactant | N-(2-furoyl)-2-(p-anisidino)propionic acid | O1C(=CC=C1)C(=O)N(C1=CC=C(OC)C=C1)C(C(=O)O)C | C15H15NO5
reactant | methyl 4-(p-anisidino)butyrate | COC1=CC=C(C=C1)NCCCC(=O)OC | C12H17NO3
product | methyl N-[N-(2-furoyl)-2-(p-anisidino)propionyl]-4-(p-anisidino)butyrate | O1C(=CC=C1)C(=O)N(C1=CC=C(OC)C=C1)C(C(=O)N(C1=CC=C(OC)C=C1)CCCC(=O)OC)C | C27H30N2O7
